2132-07-29 06:56:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 TRANSTHORACIC ECHO - At [**2132-7-28**] 10:00 AM
 BLOOD CULTURED - At [**2132-7-28**] 02:00 PM
   #1 (surveilance)
 BLOOD CULTURED - At [**2132-7-28**] 03:00 PM
   #2
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2132-7-28**] 07:52 PM
   Cefipime - [**2132-7-29**] 02:30 AM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2132-7-28**] 04:00 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2132-7-29**] 06:55 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.9
C (98.5
   Tcurrent: 36.4
C (97.5
   HR: 86 (84 - 99) bpm
   BP: 93/51(61) {91/42(55) - 111/69(77)} mmHg
   RR: 18 (17 - 26) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 63 Inch
             Total In:
                                                                  3,433 mL
                                                                    340 mL
   PO:
                                                                  1,080 mL
                                                                    240 mL
   TF:
   IVF:
                                                                  1,687 mL
                                                                    100 mL
   Blood products:
                                                                    667 mL
   Total out:
                                                                  2,660 mL
                                                                    670 mL
   Urine:
                                                                  2,660 mL
                                                                    670 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    773 mL
                                                                   -330 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 98%
   ABG: ///18/
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   74 K/uL
   8.4 g/dL
   123 mg/dL
   0.6 mg/dL
   18 mEq/L
   4.0 mEq/L
   24 mg/dL
   111 mEq/L
   138 mEq/L
   23.6 %
   2.7 K/uL
        [image002.jpg]
                             [**2132-7-28**]  04:03 AM
                             [**2132-7-28**]  08:00 AM
                             [**2132-7-28**]  02:01 PM
                             [**2132-7-28**]  08:00 PM
                             [**2132-7-29**]  01:02 AM
                             [**2132-7-29**]  04:29 AM
   WBC
   2.1
   3.3
   2.9
   3.1
   2.7
   Hct
   20.5
   20.8
   22.6
   22.9
   24.5
   23.6
   Plt
   68
   75
   82
   75
   74
   Cr
   0.7
   0.7
   0.7
   0.6
   Glucose
   [**Telephone/Fax (3) 9800**]
   Other labs: PT / PTT / INR:11.8/24.7/1.0, Alk Phos / T Bili:/0.9,
   Differential-Neuts:26.6 %, Band:0.0 %, Lymph:68.2 %, Mono:2.8 %,
   Eos:2.0 %, Fibrinogen:243 mg/dL, LDH:219 IU/L, Ca++:8.2 mg/dL, Mg++:1.9
   mg/dL, PO4:2.6 mg/dL
   Assessment and Plan
 HYPERGLYCEMIA
 ANEMIA, OTHER
 FEVER, UNKNOWN ORIGIN (FUO, HYPERTHERMIA, PYREXIA)
 HYPOTENSION (NOT SHOCK)

2132-07-29 07:14:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - dropped Hct from 27 to 20.5, received 1 unit PRBC's --> HCT 22.6
   - received 1U after this with HCT 24.5
   - BMT recs (for pancytopenia): coombs test, [**Doctor Last Name **] body prep, parvo PCR,
   check serum folate
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2132-7-28**] 07:52 PM
   Cefipime - [**2132-7-29**] 02:30 AM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2132-7-28**] 04:00 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2132-7-29**] 07:13 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.9
C (98.5
   Tcurrent: 36.4
C (97.5
   HR: 86 (84 - 98) bpm
   BP: 93/51(61) {91/42(55) - 111/69(77)} mmHg
   RR: 18 (17 - 26) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 63 Inch
             Total In:
                                                                  3,433 mL
                                                                    340 mL
   PO:
                                                                  1,080 mL
                                                                    240 mL
   TF:
   IVF:
                                                                  1,687 mL
                                                                    100 mL
   Blood products:
                                                                    667 mL
   Total out:
                                                                  2,660 mL
                                                                    670 mL
   Urine:
                                                                  2,660 mL
                                                                    670 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    773 mL
                                                                   -330 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 98%
   ABG: ///18/
   Physical Examination
   Gen: Well appearing adult female, no acute distress.
   HEENT:  MMM. Conjunctiva well pigmented.
   Neck: Supple
   Chest: CTA b/l
   Cor: Normal S1, S2. RRR.  [**2-8**] murmur non-radiating left upper sternal
   border
   Abdomen: Soft, NT, ND. +BS.
   Extremity: Warm, without edema. 2+ DP pulses bilat.
   Neuro: Alert and oriented.
   Labs / Radiology
   74 K/uL
   8.4 g/dL
   123 mg/dL
   0.6 mg/dL
   18 mEq/L
   4.0 mEq/L
   24 mg/dL
   111 mEq/L
   138 mEq/L
   23.6 %
   2.7 K/uL
        [image002.jpg]
   TTE:  Normal biventricular cavity size with preserved biventricular
   systolic function. No valvular vegetations or masses identified. If
   clinical suspicion of endocarditis is high, a TEE could help to
   clarify.
   Compared with the prior study (images reviewed) of [**2131-4-15**], the
   degree of mitral regurgitation has decreased. The other findings are
   similar.
   Cortisol: 4am 0.9, 5am 18
                             [**2132-7-28**]  04:03 AM
                             [**2132-7-28**]  08:00 AM
                             [**2132-7-28**]  02:01 PM
                             [**2132-7-28**]  08:00 PM
                             [**2132-7-29**]  01:02 AM
                             [**2132-7-29**]  04:29 AM
   WBC
   2.1
   3.3
   2.9
   3.1
   2.7
   Hct
   20.5
   20.8
   22.6
   22.9
   24.5
   23.6
   Plt
   68
   75
   82
   75
   74
   Cr
   0.7
   0.7
   0.7
   0.6
   Glucose
   [**Telephone/Fax (3) 9800**]
   Other labs: PT / PTT / INR:11.8/24.7/1.0, Alk Phos / T Bili:/0.9,
   Differential-Neuts:26.6 %, Band:0.0 %, Lymph:68.2 %, Mono:2.8 %,
   Eos:2.0 %, Fibrinogen:243 mg/dL, LDH:219 IU/L, Ca++:8.2 mg/dL, Mg++:1.9
   mg/dL, PO4:2.6 mg/dL
   Assessment and Plan
 HYPERGLYCEMIA
 ANEMIA, OTHER
 FEVER, UNKNOWN ORIGIN (FUO, HYPERTHERMIA, PYREXIA)
 HYPOTENSION (NOT SHOCK)
   This is a 66 year old female with history of CLL with multiple recent
   hospitalizations for infections here with a fever and transient
   hypotension.
   .
   #Acute anemia:  Pt
s hct dropped from 27 on admission to 20.5 yesterday
   night.  She was transfused 2 units PRBC
s and did not have an
   appropriate response, hct 24.5.  Hct today decreased to 23.6.  Ddx
   includes bleeding (no obvious source found) vs hemolysis
   (auto-antibodies) vs decresed production (medication side effect, parvo
   virus infection, marrow suppression, folate deficiency).  Hemolysis
   labs ordered (Haptoglobin <20, Tbili 0.9, LDH 219, [**Doctor Last Name 2648**] negative,
   Coombs test pending).  Parvo PCR and folate level pending.
   -f/u q6h Hct
   -f/u hemolysis labs
   -f/u parvo pcr
   -f/u folate level
   -transfuse to hct >21
   # Transient hypotension:  Meets SIRS criteria with fever and
   tachycardia, without clear source for infection and stable blood
   pressures with normal lactate.  Currently without clear localizing
   symptoms.  No known indwelling line or hardware.  Also with Given
   fevers at home, hypovolemia related to increased insensible loss is
   also possible.  Recent steroid use and discontinuation may also be
   contributing; given dexamethasone in ED.  Currently hemodynamically
   stable on  empiric tx w/ cefepime and vancomycin for febrile
   neutropenia.
   - f/u culture data
   - dc vanco, cont cefepime
   - Cont atovaquone, fluconazole, PO vanco prophylaxis
   .
   # Heart Murmur:  TTE showed no vegetations (results above).  Cultures
   negative to date, but in pt with fevers, endocarditis obviously on
   differential.
   - Follow culture data, if positive will obtain TEE.
   .
   # Tachycardia: With sinus tach to 130s on admission, now to 100s.  [**Month (only) 60**]
   be some component of hypovolemia given response to IVF.  PE unlikely
   without cardio-pulmonary symptoms and without e/o right heart strain on
   ECG.
   - Cont monitor with hydration
   .
   # Hyponatremia: Likely hypovolemic hyponatremia.  But as noted above
   adrenal insufficiency also on differential especially in light of mild
   hyperkalemia.  Hyponatremia and hyperkalemia now resolved w/ IVF
   repletion.
   - cont IVF
   .
   # CLL: p53 mutation, s/p multiple rounds of chemo (last Campath [**10-9**],
   previously fludarabine-based therapy CVP, CHOP) with continued bulky
   lymphadenopathy and splenomegaly.  Followed by Dr. [**Last Name (STitle) 1750**].
   - Cont ppx with fluconazole and atovaquone
   - Primary oncologist recs
   ICU Care
   Nutrition: Regular diet
   Glycemic Control:  ISS
   Lines:
   18 Gauge - [**2132-7-27**] 11:22 PM
   Prophylaxis:
   DVT: heparin sq
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: full code
   Disposition: transfer to reg floor

2132-07-30 07:19:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   --had a fever spike. Pancultures sent. Patient remained tachycardic.
   Given 1L bolus of fluid and still tachycardic.
   --PO Ativan given for anxiety.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2132-7-29**] 08:00 AM
   Atovaquone - [**2132-7-29**] 08:00 AM
   Cefipime - [**2132-7-30**] 04:18 AM
   Infusions:
   Other ICU medications:
   Omeprazole (Prilosec) - [**2132-7-29**] 08:00 AM
   Heparin Sodium (Prophylaxis) - [**2132-7-29**] 10:00 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2132-7-30**] 07:17 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 39.4
C (103
   Tcurrent: 37.4
C (99.4
   HR: 115 (88 - 144) bpm
   BP: 104/57(68) {91/42(55) - 194/156(166)} mmHg
   RR: 20 (18 - 40) insp/min
   SpO2: 94%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 73 kg (admission): 70.6 kg
   Height: 63 Inch
             Total In:
                                                                  3,255 mL
                                                                    828 mL
   PO:
                                                                  1,080 mL
             TF:
   IVF:
                                                                  2,175 mL
                                                                    828 mL
   Blood products:
   Total out:
                                                                  2,025 mL
                                                                    800 mL
   Urine:
                                                                  2,025 mL
                                                                    800 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,230 mL
                                                                     28 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 94%
   ABG: ///17/
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   64 K/uL
   7.8 g/dL
   101 mg/dL
   0.7 mg/dL
   17 mEq/L
   4.3 mEq/L
   26 mg/dL
   109 mEq/L
   135 mEq/L
   22.5 %
   1.9 K/uL
        [image002.jpg]
                             [**2132-7-28**]  04:03 AM
                             [**2132-7-28**]  08:00 AM
                             [**2132-7-28**]  02:01 PM
                             [**2132-7-28**]  08:00 PM
                             [**2132-7-29**]  01:02 AM
                             [**2132-7-29**]  04:29 AM
                             [**2132-7-29**]  04:42 PM
                             [**2132-7-29**]  08:00 PM
                             [**2132-7-30**]  03:57 AM
   WBC
   2.1
   3.3
   2.9
   3.1
   2.7
   2.0
   1.9
   Hct
   20.5
   20.8
   22.6
   22.9
   24.5
   23.6
   27.7
   24.6
   22.5
   Plt
   68
   75
   82
   75
   74
   77
   64
   Cr
   0.7
   0.7
   0.7
   0.6
   0.8
   0.7
   Glucose
   [**Telephone/Fax (3) 9816**]01
   Other labs: PT / PTT / INR:13.8/28.7/1.2, Alk Phos / T Bili:/1.1,
   Differential-Neuts:26.6 %, Band:0.0 %, Lymph:68.2 %, Mono:2.8 %,
   Eos:2.0 %, Fibrinogen:243 mg/dL, LDH:249 IU/L, Ca++:7.9 mg/dL, Mg++:1.6
   mg/dL, PO4:3.2 mg/dL
   Assessment and Plan
 HYPERGLYCEMIA
 ANEMIA, OTHER
 FEVER, UNKNOWN ORIGIN (FUO, HYPERTHERMIA, PYREXIA)
 HYPOTENSION (NOT SHOCK)
   This is a 66 year old female with history of CLL with multiple recent
   hospitalizations for infections here with fever of unclear etiology.
   #Neutropenic fever:  Pt spiked to [**Age over 90 **] yesterday and her WBC went down
   to 1.9.  No source of infection identified as pt doesn
t have
   localizing symptoms.  Pt was also tachycardic while febrile (up to
   140s).  She was pan cultured, previous (-) to date.  Currently
   afebrile, on cefepime 2g IV q8h for empiric coverage.  As per BMT,
   [**Doctor Last Name 9818**] transformation is possible or persistent CCL could be
   attributed to her persistent fevers.
   -cont cefepime
   -added a diff to eval for neutropenia
   -f/u cultures
   .
   #Acute anemia:  Pt
s hct dropped from 27 on admission to 20.5 yesterday
   night.  She was transfused 2 units PRBC
s and did not have an
   appropriate response, hct 24.5.  Hct today decreased to 22.5.  Ddx
   includes bleeding (no obvious source found) vs hemolysis
   (auto-antibodies from CLL) vs decresed production (medication side
   effect, parvo virus infection, marrow suppression/invasion by her CLL)
   vs sequestration.  Hemolysis labs ordered (Haptoglobin <20, Tbili 0.9,
   LDH 219, [**Doctor Last Name 2648**] negative, Coombs test negative).  Parvo PCR pending,
   folate level normal, retic count 0.4.
   -f/u q6h Hct
   -f/u hemolysis labs
   -f/u parvo pcr
   -transfuse to hct >21
   # Tachycardia: With sinus tach to 130s on admission, transiently
   tachycardic overnight while febrile.  Most likely cause of tachycardia
   is pt being febrile.  [**Month (only) 60**] be some component of hypovolemia given mild
   response to IVF.
    - Cont monitor with hydration (w/ LR) given non-gap acidosis.
   # Transient hypotension:  Pt was transiently hypotensive in the ED but
   that has now resolved w/ hydration.
   -cont monitoring BP
   -f/u culture data
   .
   # Heart Murmur:  TTE showed no vegetations (results above).  Cultures
   negative to date, but in pt with fevers, endocarditis obviously on
   differential.
   - Follow culture data, if positive will obtain TEE.
   .
   # CLL: p53 mutation, s/p multiple rounds of chemo (last Campath [**10-9**],
   previously fludarabine-based therapy CVP, CHOP) with continued bulky
   lymphadenopathy and splenomegaly.  Followed by Dr. [**Last Name (STitle) 1750**].
   - Cont ppx with fluconazole and atovaquone
   - Primary oncologist recs
   ICU Care
   Nutrition: Regular diet
   Glycemic Control:  ISS
   Lines:
   18 Gauge - [**2132-7-27**] 11:22 PM
   Prophylaxis:
   DVT: heparin sq
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: full code
   Disposition: transfer to reg floor